US04518597
6-Hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one
An amount of 237.5 gm (1.146 mol) of 6-methoxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one is dissolved in 2.4 liters of dry ethylene chloride, and 125 ml (330.3 gm=1.3 mol) of boron tribromide are added thereto dropwise, under stirring, at -30° to -40° C. After the addition is complete, the mixture is allowed to return to ambient temperature and left overnight. Then, 1 liter of 50% ethanol is added dropwise, under cooling and stirring, and the mixture is evaporated down to about 500 ml and then diluted with 3 liters of water. The precipitate is subjected to suction filtration and dried.

reactant | 6-methoxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | 1.146 mol, 237.5 gm | COC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C11H13NO3
reactant | boron tribromide | 1.3 mol, 125 ml, 330.3 gm | B(Br)(Br)Br | BBr3
reactant | ethanol | 1 liter | C(C)O | C2H6O
solvent | ethylene chloride | 2.4 liters | C(CCl)Cl | C2H4Cl2
product | 6-Hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | OC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C10H11NO3
